US05420115
2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine
2-Aminopurine (Vega Biochemicals, 0.4 g, 3.0 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.2 g, 0.71 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 35 ml of 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (1,930 I.U.) and purine nucleoside phosphorylase (1,880 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 37° C. On day 24, the reaction was diluted to 200 ml with water and 1,390 I.U. of thymidine phosphorylase, and, 1,880 I.U. of purine nucleoside phosphorylase were added. On day 35, the suspension was evaporated. The residue was dissolved in water/methanol (7/3) and applied to a 1.5×15 cm column of anion exchange resin (Bio-Rad AG1X2-hydroxide form). The product was eluted with water/methanol (7/3). The product-containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in water and lyophilized to obtain title compound that analyzed as a 0.6 hydrate.

reactant | 2-Aminopurine | 3.0 mmoles, 0.4 g | NC1=NC=C2NC=NC2=N1 | C5H5N5
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 0.71 mmoles, 0.2 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 5 mM, 35 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | O | H2O
product | 2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine | NC1=NC=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F | C10H12FN5O3
